US09079890B2
In 1 L of absolute ethanol was added (S)—N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (41 g, 76.7 mmol) and the reaction was heated to 80° C. 41 mL of aqueous HCl (11.6 mL of concentrated HCl diluted in water) was added. After 2 hours, the resultant solid material was hot filtered, washed with ethanol (200 mL) and dried in vacuo to yield crude product as a solid which contained about 2% starting material. The solids were suspended in EtOH (1 L) and heated to 80° C. followed by 41 mL of aqueous HCl (11.6 mL of concentrated HCl diluted in water). After 3.5 hours the resultant solid material was hot filtered, washed with ethanol (200 mL) and dried in vacuo and to afford (S)-1-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (35 g, 85%). Mass Spectrum (apci) m/z=455.2 (M+H−HCl).

reactant | (S)—N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 76.7 mmol, 41 g | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2 | C26H26N6O3S2
reactant | HCl | 41 mL | Cl | ClH
reactant | HCl | 41 mL | Cl | ClH
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | EtOH | 1 L | CCO | C2H6O
product | (S)-1-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 35 g, 85% | Cl.CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H](CO)O | InChI=1S/C20H18N6O3S2.ClH/c1-12-15(5-4-8-21-12)29-16-9-13(30-17-6-2-3-7-22-17)10-23-19(16)25-20-24-18(26-31-20)14(28)11-27;/h2-10,14,27-28H,11H2,1H3,(H,23,24,25,26);1H/t14-;/m1./s1
